US07304062B2
2-(4-{3-[1-(3,4-Dichlorobenzyl)-5-oxo-4,5-dihydro-1H-[1,2,4]triazol-3-yl]-propyl}-phenoxy)-2-methylpropionic acid
To substrate 1-[4-[4-(1-Carboxy-1-methylethoxy)-phenyl]butyryl]-2-(3,4-dichlorophenylmethyl)-4-(propyl)semicarbazide (0.3658 g, 0.697 mmol) and camphorsulfonic acid (0.1658 g, 0.714 mmol) was added toluene (10 mL) and the resulting solution heated to 90° C. for 1 h. The solution was concentrated to an oil, and chromatographed on silica gel (7:3 ethyl acetate:hexanes) to afford title compound as an oil (0.2397 g, 0.473 mmol, 68%): 1H NMR (DMSO-d6) δ 12.95 (br s, 1 H), 7.58 (d, 2 H, J=8 Hz), 7.46 (d, 1 H, J=1.5 Hz), 7.19 (dd, 1 H, J=8, 1.5 Hz), 7.03 (d, 2 H, J=8.5 Hz), 6.72 (d, 2 H, J=8.5 Hz), 4.85 (s, 2 H), 3.47 (t, 2 H, J=7 Hz), 2.54 (t, 2 H, J=7.5 Hz), 1.83 (m, 2 H), 1.52 (q, 2 H, J=7 Hz), 1.45 (s, 6 H), 0.79 (t, 3 H, J=7 Hz); 13C NMR (DMSO-d6) δ 175.8, 154.1, 147.3, 139.2, 135.2, 131.7, 131.5, 130.8, 130.1, 129.7, 128.4, 119.3, 79.0, 47.3, 42.9, 34.0, 27.8, 25.7, 24.8, 22.5, 11.5; IR (CHCl3) 3028, 3005, 2939, 2878, 1696, 1574, 1509, 1472 cm−1; Anal. Calcd. for C25H29Cl2N3O4: C, 59.29; H, 5.77; N, 8.30. Found: C, 59.33; H, 5.63; N, 8.10.

reactant | 1-[4-[4-(1-Carboxy-1-methylethoxy)-phenyl]butyryl]-2-(3,4-dichlorophenylmethyl)-4-(propyl)semicarbazide | 0.697 mmol, 0.3658 g | C(=O)(O)C(C)(OC1=CC=C(C=C1)CCCC(=O)NN(C(=O)NCCC)CC1=CC(=C(C=C1)Cl)Cl)C | C25H31Cl2N3O5
reactant | camphorsulfonic acid | 0.714 mmol, 0.1658 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-{3-[1-(3,4-Dichlorobenzyl)-5-oxo-4,5-dihydro-1H-[1,2,4]triazol-3-yl]-propyl}-phenoxy)-2-methylpropionic acid | 0.473 mmol, 0.2397 g, 68% | ClC=1C=C(CN2N=C(NC2=O)CCCC2=CC=C(OC(C(=O)O)(C)C)C=C2)C=CC1Cl | C22H23Cl2N3O4
